US07557114B2
(d) 3-Trifluoromethyl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
Prepared in analogy to Example A2(c) from 3-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine and trifluoroacetic acid. Yellow oil. MS (m/e): 189.4 ([M+H+, 100%).

reactant | 3-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | FC(C=1C=C2C(=NC1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(F)F | C27H21F3N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Trifluoromethyl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | FC(C=1C=C2C(=NC1)CNC2)(F)F | C8H7F3N2
